US05552551
4'-(β-Methylethenyl)-3-hydroxyflavone
A solution of 4.92 g (36.1 mmol) of 2-hydroxyacetophenone, 3.30 g (34.2 mmol) of β-methyl styrene, 4-carboxaldehyde (mixture of cis and trans isomers) and 8.15 g NaOH (in 15 ml of water) in 125 ml of ethanol was stirred for 12 hours before the solution was poured into 600 ml of water. The resulting mixture was neutralized with dilute HCl. The yellow precipitate obtained was filtered and dried. The chalcone was purified by recrystallized from methylene chloride. Further oxidation of above chalcone was carried out with excess of H2O2 (30%) in ethanol under basic conditions for 12 hours. The resulting solution was poured into 300 ml water and acidified with dilute HCl. Yellow precipitate obtained was filtered and dried. 3-hydroxy-4'-(β-ethenyl) flavone was recrystallized from THF/hexane mixture. Yield: 35%. Quantum Yield: (1.75 relative to 3HF in methyl cyclohexane), Extinction coefficient: εmax (M-1 cm-1)=24000. λmax (abs)=355 nm and λmax (em)=551 nm.

reactant | 2-hydroxyacetophenone | 36.1 mmol, 4.92 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | β-methyl styrene | 34.2 mmol, 3.30 g | CC=CC1=CC=CC=C1 | C9H10
reactant | NaOH | 15 ml, 8.15 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | ethanol | 125 ml | C(C)O | C2H6O
solvent | water | 600 ml | O | H2O
product | 4'-(β-Methylethenyl)-3-hydroxyflavone | Yield: 35% | CC=CC1=CC=C(C=2OC3=CC=CC=C3C(C2O)=O)C=C1 | C18H14O3
